US05112922
3-Bromopropionyl chloride (25.7 g) was dissolved in dichloromethane (150 ml), cooled to -10° and a solution of octylamine (20.7 g) in dichloromethane (50 ml) was added over 10 minutes at -10° to 0°. Pyridine (12.7 g) in dichloromethane (50 ml) was added to the white suspension at -10° to 0° giving an orange solution. After stirring for 1 hour at 0°, water (100 ml) was added, the phases separated and the aqueous phase extracted with dichloromethane (2×50 ml). The combined organic extracts were washed with dilute sodium hydroxide and water, dried over MgSO4, filtered through a bed of silica gel and evaporated to give 3-bromo-N-octylpropanamide as a colourless solid (21.49 g, 54%) (mp 48°-55°).

reactant | 3-Bromopropionyl chloride | 25.7 g | BrCCC(=O)Cl | C3H4BrClO
reactant | octylamine | 20.7 g | C(CCCCCCC)N | C8H19N
reactant | Pyridine | 12.7 g | N1=CC=CC=C1 | C5H5N
reactant | water | 100 ml | O | H2O
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-bromo-N-octylpropanamide | 21.49 g, 54% | BrCCC(=O)NCCCCCCCC | C11H22BrNO
